US07488740B2
3. 3-[3-(Trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]pyrido[2,3-b]pyrazin-8-amine
To a de-gassed mixture of 3-[3-(trifluoromethyl)pyridin-2-yl]pyrido[2,3-b]pyrazin-8-amine (72 mg, 0.25 mmol), cesium carbonate (162 mg, 0.5 mmol), 2-amino-trifluoromethyl pyridine (45 mg, 0.25 mmol) in dioxane (5 mL) under nitrogen, add Pd2dba3 (11 mg) and xantphos (7 mg). Stir the mixture at 100° C. for 3 hours, cool, add water (10 mL) and extract with EtOAc. Dry over Na2SO4, concentrate under vacuum. Purify by chromatography eluting with dichloromethane/methanol/ammonium hydroxide mixture to give the title compound. MS 437 (M+1). 1H NMR δ (CDCl3) 9.42 (1H, s), 9.28 (1H, s), 9.11 (1H, d), 8.95 (1H, d), 8.90 (1H, d), 8.72 (1H, s), 8.25 (1H, d), 7.89 (1H, d), 7.61 (1H,dd), 7.13 (1H, d).

reactant | 3-[3-(trifluoromethyl)pyridin-2-yl]pyrido[2,3-b]pyrazin-8-amine | 0.25 mmol, 72 mg | FC(C=1C(=NC=CC1)C1=CN=C2C(=N1)N=CC=C2N)(F)F | C13H8F3N5
reactant | cesium carbonate | 0.5 mmol, 162 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-amino-trifluoromethyl pyridine | 0.25 mmol, 45 mg | NC1=NC=CC=C1C(F)(F)F | C6H5F3N2
reactant | xantphos | 7 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2dba3 | 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 10 mL | O | H2O
product | 3-[3-(Trifluoromethyl)pyridin-2-yl]-N-[5-(trifluoromethyl)pyridin-2-yl]pyrido[2,3-b]pyrazin-8-amine | FC(C=1C(=NC=CC1)C1=CN=C2C(=N1)N=CC=C2NC2=NC=C(C=C2)C(F)(F)F)(F)F | C19H10F6N6
